US07989463B2
Step (i): Synthesis of 4-chloro-2-cyclopentylmethyl-6,7-dihydro-5H-cyclopentapyrimidine
Phosphorus oxychloride (4.6 mL, 51 mmol) was added to 2-cyclopentylmethyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ol (3.7 g, 17 mmol) and the mixture was heated at reflux for 2 hours. Thereafter, volatiles were evaporated under reduced pressure and the mixture was poured over ice-water. The mixture was extracted with dichloromethane (3×60 mL). The combined organic extracts were washed with water, treated with activated charcoal, dried over anhydrous Na2SO4, filtered, and the filtrate was concentrated under reduced pressure to afford the title compound as a light yellow solid (3.1 g, 78% yield).

reactant | Phosphorus oxychloride | 51 mmol, 4.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-cyclopentylmethyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ol | 17 mmol, 3.7 g | C1(CCCC1)CC1=NC2=C(C(=N1)O)CCC2 | C13H18N2O
product | 4-chloro-2-cyclopentylmethyl-6,7-dihydro-5H-cyclopentapyrimidine | 3.1 g, 78% yield | ClC1=NC(=NC2=C1CCC2)CC2CCCC2 | C13H17ClN2
